US06281358B1
Preparation of 4-(3-trifluoromethylphenoxy)-2-(3,5-dimethylpyrazol-1-yl)-pyrimidine
Water (20 mmoles) is added to a solution of 1,1,1,3-tetrachloro-3-ethoxypropane (10 mmoles) in dimethoxyethane (25 ml). The mixture is stirred for 2 h at 90° C. The resulting mixture is slowly added to a mixture consisting of a 3,5-dimethylpyrazole-1-carboxamidine nitrate (10 mmoles), 3-trifluoromethylphenol (10 mmoles), potassium carbonate (60 mmoles) and dimethoxyethane (50 ml), which is stirred under reflux. When the addition of 3,3-dichloroacrolein solution is completed additional 3,5-dimethylpyrazole-1-carboxamidine nitrate (0.5 mmoles) is added. The reaction mixture is stirred for 10 hours under reflux and subsequently cooled down to ambient temperature, filtered through silica, and the organic phase is concentrated in vacuo. The residue is purified by chromatography on SiO2 (ethyl acetate) to give 2,2 g of a yellow solid. The solid was washed with petrol ether (50 ml) to yield 1,75 g (52%) of colorless crystals having a melting point of 101-102° C.

reactant | Water | 20 mmoles | O | H2O
reactant | 1,1,1,3-tetrachloro-3-ethoxypropane | 10 mmoles | ClC(CC(OCC)Cl)(Cl)Cl | C5H8Cl4O
reactant | 3,5-dimethylpyrazole-1-carboxamidine nitrate | 10 mmoles | [N+](=O)(O)[O-].CC1=NN(C(=C1)C)C(=N)N
reactant | 3-trifluoromethylphenol | 10 mmoles | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | potassium carbonate | 60 mmoles | C([O-])([O-])=O.[K+].[K+]
reactant | 3,3-dichloroacrolein | ClC(=CC=O)Cl | C3H2Cl2O
solvent | dimethoxyethane | 25 ml | C(OC)COC | C4H10O2
catalyst | 3,5-dimethylpyrazole-1-carboxamidine nitrate | 0.5 mmoles | [N+](=O)(O)[O-].CC1=NN(C(=C1)C)C(=N)N
solvent | dimethoxyethane | 50 ml | C(OC)COC | C4H10O2
product | 4-(3-trifluoromethylphenoxy)-2-(3,5-dimethylpyrazol-1-yl)-pyrimidine | 2,2 g | FC(C=1C=C(OC2=NC(=NC=C2)N2N=C(C=C2C)C)C=CC1)(F)F | C16H13F3N4O
